US06987114B1
1-(3,5-Dimethylbenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 3,5-dimethylbenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (217 mg, yield: 57.3%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | 3,5-dimethylbenzyl bromide | CC=1C=C(CBr)C=C(C1)C | C9H11Br
product | 1-(3,5-Dimethylbenzyl)-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 217 mg, yield: 57.3% | CC=1C=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)CC)=O)=O)C=C(C1)C | C23H26N2O3
